### PR TITLE
[Merged by Bors] - chore: golf using `grind` and `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
Trace profiling results (shown if ≥10 ms before or after):
* `Finset.sdiff_nonempty_of_card_lt_card`: <10 ms before, 42 ms after
* `LinearPMap.mem_graph_snd_inj'`: <10 ms before, 48 ms after
* `Submodule.Quotient.nontrivial_of_lt_top`: <10 ms before, <10 ms after  🎉

This golfing PR is batched under the following guidelines:
* Up to ~5 changed files per PR
* Up to ~25 changed declarations per PR
* Up to ~100 changed lines per PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Quotient/Basic.lean [hunk 1]
```diff
@@ -82,9 +82,8 @@ instance [Subsingleton M] : Subsingleton (M ⧸ p) := by simpa using Subsingleto
 
 @[deprecated Quotient.nontrivial_iff (since := "2025-11-02")]
 theorem nontrivial_of_lt_top (h : p < ⊤) : Nontrivial (M ⧸ p) := by
-  obtain ⟨x, _, notMem_s⟩ := SetLike.exists_of_lt h
-  refine ⟨⟨mk x, 0, ?_⟩⟩
-  simpa using notMem_s
+  simp only [Quotient.nontrivial_iff]
+  exact LT.lt.ne_top h
```
Comment (fpvandoorn) [inline Mathlib/LinearAlgebra/Quotient/Basic.lean]: A further golf:
```lean
theorem nontrivial_of_lt_top (h : p < ⊤) : Nontrivial (M ⧸ p) :=
  Quotient.nontrivial_iff.mpr h.ne
```

LGTM
bors d+

Comment (euprunin) [reply Mathlib/LinearAlgebra/Quotient/Basic.lean]: Thanks! Now added.
